US04198425
3-Hydroxy-3-methyl-7-(p-chlorophenyl)-5-heptanolide
The product obtained by reducing 200 mg of 3-hydroxy-3-methyl-4-bromo-7-(p-chlorophenyl)-5-heptanolide with 680 mg of tri-n-butyltin hydride in 5 ml of anhydrous tetrahydrofuran according to the method described in Example 2 (a), was recrystallized from a mixture of n-hexane and benzene (5:1) to give 89 mg of the desired compound melting at 61°-64° C.

reactant | 3-hydroxy-3-methyl-4-bromo-7-(p-chlorophenyl)-5-heptanolide | 200 mg | OC1(CC(=O)OC(C1Br)CCC1=CC=C(C=C1)Cl)C | C14H16BrClO3
reactant | tri-n-butyltin hydride | 680 mg | C(CCC)[SnH](CCCC)CCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-Hydroxy-3-methyl-7-(p-chlorophenyl)-5-heptanolide | 89 mg | OC1(CC(=O)OC(C1)CCC1=CC=C(C=C1)Cl)C | C14H17ClO3
